US07345180B2
1-(2,2-Dimethylpropyl)-1H-indole-3-carboxylic acid
1H-Indole-3-carboxylic acid (208 mg) was dissolved in N,N-dimethylformamide (10 ml), then sodium hydride (154 mg) was added thereto, and the mixture was stirred for 10 minutes at room temperature. Neopentyl iodide (0.25 ml) was added to the reaction solution and stirred for 15 hours at 80° C. Water was added to the reaction mixture which was then washed with ethyl acetate. The aqueous phase was adjusted to pH 6 by 1 N hydrochloric acid, extracted with ethylacetate, and the extract was washed with a saturated saline solution and dried over sodium sulfate anhydrous. The resulting product was concentrated under reduced pressure, and the residue was purified by column chromatography (eluting solvent; n-hexane:ethyl acetate 4:1) to give the title compound (264 mg, Y.:89%).

reactant | 1H-Indole-3-carboxylic acid | 208 mg | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | sodium hydride | 154 mg | [H-].[Na+]
reactant | Neopentyl iodide | 0.25 ml | C(C(C)(C)C)I | C5H11I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2,2-Dimethylpropyl)-1H-indole-3-carboxylic acid | 264 mg, 89% | CC(CN1C=C(C2=CC=CC=C12)C(=O)O)(C)C | C14H17NO2
